US05314903
2-Amino-1-(4-chlorobenzyl)-benzimidazole.
A mixture of 2-amino benzimidazole (6.66 g, 50 mmol), 4-chlorobenzylchloride (8.86 g, 55 mmol), and potassium carbonate (13.8 g, 100 mmol) in DMF (150 ml) was heated to 50° C. overnight. After dilution with water the product was filtered off. Recrystallization from water/ethanol 1:2 gave pure product. Yield 5.6 g (46%) mp 196°-197° C.

reactant | 2-amino benzimidazole | 50 mmol, 6.66 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 4-chlorobenzylchloride | 55 mmol, 8.86 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-Amino-1-(4-chlorobenzyl)-benzimidazole | NC1=NC2=C(N1CC1=CC=C(C=C1)Cl)C=CC=C2 | C14H12ClN3
